US03951993
Heating a solution of 6.1 g of 3-nitrobenzaldehyde and 13.9 g of 3-amino-3-ethoxyacrylic acid isopropyl ester in 100 ml of ethanol for 8 hours yields 2-amino-6-ethoxy-4-(3-nitrophenyl)-4,5-dihydropyridine-3,5-dicarboxylic acid diisopropyl ester of melting point 130°C (ether/petroleum ether).

reactant | 3-nitrobenzaldehyde | 6.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 3-amino-3-ethoxyacrylic acid isopropyl ester | 13.9 g | C(C)(C)OC(C=C(OCC)N)=O | C8H15NO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-6-ethoxy-4-(3-nitrophenyl)-4,5-dihydropyridine-3,5-dicarboxylic acid diisopropyl ester | C(C)(C)OC(=O)C1=C(N=C(C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)C)OCC)N | C21H27N3O7
